US07674741B2
2-(Cyclohexyl-methylene)-γ-butyrolactone
A solution of 2-acetyl-γ-butyrolactone (15.4 g) in toluene (100 mL) was treated portionwise with sodium hydroxide (4.8 g) during 10 min and then refluxed with a Dean & Stark moisture receiver until the formation of water had stopped (about 1 h). After that the reaction mixture was treated dropwise with cyclohexanecarbaldehyde (15.0 g) during 1 h. Upon completion of the addition, the mixture was refluxed for 4 h, then cooled to room temperature and washed with water. After drying over magnesium sulfate, the obtained organic phase was filtered, concentrated on a rotary evaporator and distilled in vacuum to give 4.54 g (21%) of the title compound.

reactant | 2-acetyl-γ-butyrolactone | 15.4 g | C(C)(=O)C1C(=O)OCC1 | C6H8O3
reactant | sodium hydroxide | 4.8 g | [OH-].[Na+]
reactant | water | O | H2O
reactant | cyclohexanecarbaldehyde | 15.0 g | C1(CCCCC1)C=O | C7H12O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(Cyclohexyl-methylene)-γ-butyrolactone | 4.54 g, 21% | C1(CCCCC1)C=C1C(=O)OCC1 | C11H16O2
